US06677352B1
To a mixture of [(2-anilino-7-methyl-4-oxo-1-phenyl-1,4-dihydro-1,6-naphthyridin-5-yl)sulfanyl]acetic acid (20 mg, 0.05 mmol), EDCI (18 mg, 0.10 mmol), HOBT (13 mg, 0.10 mmol) and cyclopropylamine (0.004 mL, 0.06 mmol) in CH2Cl2 (5 mL) was added TEA (0.02 mL, 0.14 mmol). The reaction solution was stirred at room temperature for 24 h before the mixture was diluted with CH2Cl2, washed with 0.5N HCl, saturated aqueous NaHCO3, brine and dried over Na2SO4. Solvents were removed in vacuo and the residue was purified by reverse-phase preparative HPLC (10% CH3CN in water with 0.1% TFA to 95% CH3CN in water, 10 mL/min, 10 min) to provide 2-[(2-anilino-7-methyl-4-oxo-1-phenyl-1,4-dihydro-1,6-naphthyridin-5-yl)sulfanyl]-N-cyclopropylacetamide (13 mg, 59%): LCMS RT: 2.55 min, MH+: 457.1.

reactant | [(2-anilino-7-methyl-4-oxo-1-phenyl-1,4-dihydro-1,6-naphthyridin-5-yl)sulfanyl]acetic acid | 0.05 mmol, 20 mg | N(C1=CC=CC=C1)C=1N(C2=CC(=NC(=C2C(C1)=O)SCC(=O)O)C)C1=CC=CC=C1 | C23H19N3O3S
reactant | EDCI | 0.10 mmol, 18 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.10 mmol, 13 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopropylamine | 0.06 mmol, 0.004 mL | C1(CC1)N | C3H7N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[(2-anilino-7-methyl-4-oxo-1-phenyl-1,4-dihydro-1,6-naphthyridin-5-yl)sulfanyl]-N-cyclopropylacetamide | 13 mg, 59% | N(C1=CC=CC=C1)C=1N(C2=CC(=NC(=C2C(C1)=O)SCC(=O)NC1CC1)C)C1=CC=CC=C1 | C26H24N4O2S
